US04082810
To 5 ml. of 1.0M lithium trimethoxyaluminohydride in tetrahydrofuran, under nitrogen, there is added 1.25 ml. of tri-sec-butylborane. After 30 minutes, the flask, which now contains a solution of lithium tri-sec-butylborohydride, is cooled to -78° C. and 1.25 ml. of a 2.0M solution of 4-tert-butylcyclohexanone is introduced. The reaction mixture is stirred for 3 hours before it is hydrolyzed at 25° C. and then oxidized to give 96.5% of cis-4-tert-butylcyclohexanol and 3.5% of the trans-compound.

reactant | lithium trimethoxyaluminohydride | 1.0M | CO[AlH-](OC)OC.[Li+]
reactant | tri-sec-butylborane | C(C)(CC)B(C(C)CC)C(C)CC | C12H27B
reactant | lithium tri-sec-butylborohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
reactant | 4-tert-butylcyclohexanone | C(C)(C)(C)C1CCC(CC1)=O | C10H18O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | cis-4-tert-butylcyclohexanol | 96.5% | C(C)(C)(C)[C@H]1CC[C@H](CC1)O | C10H20O
